US05559230
A mixture of 5-dimethylamino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (10 g), methyl iodide (1.7 ml) and chloroform (10 ml) is heated with stirring at 100° C. for 3 hours in an autoclave. After completion of the reaction, the solvent is distilled off under reduced pressure and the resulting residue is dissolved in methanol. The mixture is treated with IRA-400 (trade mark; Organo Co., Ltd., OH- type). Methanol is distilled off and the resulting residue is suspended in t-butyl alcohol (90 ml), and thereto is added potassium t-butoxide (2.3 g). The mixture is refluxed for 5 hours. The solvent is distilled off under reduced pressure, and the resulting residue is dissolved in dichloromethane. The mixture is washed successively with water and saturated saline solution and dried over magnesium sulfate. The solvent is distilled off and to the resulting residue is added dichloromethane/diethyl ether. The precipitated crude crystal is recrystallized from ethanol to give 1-[4-(2-chlorobenzoylamino)benzoyl]-2,3-dihydro-1H-benzazepine (5.15 g) as colorless needles, m.p. 205°-207° C.

reactant | 5-dimethylamino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 10 g | CN(C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)C | C26H26ClN3O2
reactant | methyl iodide | 1.7 ml | CI | CH3I
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(2-chlorobenzoylamino)benzoyl]-2,3-dihydro-1H-benzazepine | 5.15 g | ClC1=C(C(=O)NC2=CC=C(C(=O)N3CCC=CC4=C3C=CC=C4)C=C2)C=CC=C1 | C24H19ClN2O2
